US05126454
9.1 g (0.041 mol) of N-(4,6-dichloro-pyrimidin2-yl)-O-methyl-isourea are initially introduced in 80 ml of methanol. 2.2 g of sodium methoxide (0.041 mol), dissolved in 20 ml of methanol, are then added dropwise at 20° C. The mixture is subsequently stirred for 12 hours and concentrated, the residue is taken up in methylene chloride, and the solution is washed three times with water and concentrated again. 7.6 g (86% of theory) of N-(4-chloro-6-methoxy-pyrimidin-2-yl) -O-methyl-isourea are obtained in the form of white crystals of melting point 118°-120° C.

reactant | N-(4,6-dichloro-pyrimidin2-yl)-O-methyl-isourea | 0.041 mol, 9.1 g | ClC1=NC(=NC(=C1)Cl)NC(OC)=N | C6H6Cl2N4O
reactant | sodium methoxide | 0.041 mol, 2.2 g | C[O-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | N-(4-chloro-6-methoxy-pyrimidin-2-yl) -O-methyl-isourea | 7.6 g, 86% | ClC1=NC(=NC(=C1)OC)NC(OC)=N | C7H9ClN4O2
